US05972966
Step B: Preparation of 1-(t-Butyloxycarbonyl)-piperidine-2(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide
1 -(t-Butyloxycarbonyl)-piperidine-2(S)-carboxylic acid (0.245 g, 1.07 mmol), 3-(4-cyanobenzyl) histamine dihydrochloride(0.320 g, 1.07 mmol), HOBT (0.137 g, 1.02 mmol), EDC (0.215 g, 1.12 mmol), Et3N (0.374 mL, 2.68 mmol) were dissolved in DMF (3 mL). The solution was stirred for 6 hr, then partitioned between EtOAc (20 mL) and satd NaHCO3 solution (20 mL). The organic layer was washed with brine, dried (Na2SO4), filtered and concentrated to dryness to give the title compound. 1H NMR (CDCl3); δ7.64 (d, 2H, J=9 Hz), 7.51 (s, 1H), 7.15 (d, 2H, J =9 Hz), 6.91 (s, 1H), 6.27 (br s, 1H), 5.23 (s, 2H), 4.66-4.73 (m, 1H), 3.95-4.16 (m, 1H), 3.41 q, 2H, J=6 Hz), 2.52-2.70 (m, 3H), 2.22-2.30 (m, 1H), 1.46 (s, 9H), 1.33-1.70 (m, 5H).

reactant | 1 -(t-Butyloxycarbonyl)-piperidine-2(S)-carboxylic acid | 1.07 mmol, 0.245 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | 3-(4-cyanobenzyl) histamine dihydrochloride | 1.07 mmol, 0.320 g | Cl.Cl.C(#N)C1=CC=C(CN2C=NC=C2CCN)C=C1
reactant | HOBT | 1.02 mmol, 0.137 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.12 mmol, 0.215 g
reactant | Et3N | 2.68 mmol, 0.374 mL | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(t-Butyloxycarbonyl)-piperidine-2(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide | C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2N(CCCC2)C(=O)OC(C)(C)C)C=C1 | C24H31N5O3
